US06759415B1
Preparation of (5S)-1-(1H-Indol-3-ylmethyl)-3-(4-nitrophenyl)-5-[2-(4-phenyl-1H-imidazol-2-yl)ethyl]-2-thioxo-4-imidazolidinone
4-nitro-phenylisothiocyanate (43 mg; 1.2 eq.) is added to a solution of benzyl (2S)-2-[(1H-indol-3-ylmethyl)amino]-4-(4-phenyl-1H-imidazol-2-yl)butanoate (93 mg; 1 eq.) in THF (2 ml). The mixture is stirred for 2 hours at approximately 20° C. then diluted with 4 ml of THF. Aminomethylpolystyrene resin (acquired from Novabiochem, load 3.2 mmol/g, 125 mg, 2 eq.) is added, then triethylamine (200 μl). The mixture is stirred for 15 hours at approximately 20° C. then filtered on frit. The filtrate is concentrated to dryness under reduced pressure at 40° C. (a co-evaporation with dichloromethane is necessary to eliminate the excess triethylamine). Purification of the residue by flash chromatography on silica gel (eluent: ethyl acetate/heptane 9:1) yields the expected compound (90 mg; 84% yield).

reactant | 4-nitro-phenylisothiocyanate | 43 mg, 1.2 eq. | [N+](=O)([O-])C1=CC=C(C=C1)N=C=S | C7H4N2O2S
reactant | benzyl (2S)-2-[(1H-indol-3-ylmethyl)amino]-4-(4-phenyl-1H-imidazol-2-yl)butanoate | 93 mg, 1 eq. | N1C=C(C2=CC=CC=C12)CN[C@H](C(=O)OCC1=CC=CC=C1)CCC=1NC=C(N1)C1=CC=CC=C1 | C29H28N4O2
reactant | triethylamine | 200 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (5S)-1-(1H-Indol-3-ylmethyl)-3-(4-nitrophenyl)-5-[2-(4-phenyl-1H-imidazol-2-yl)ethyl]-2-thioxo-4-imidazolidinone | 90 mg, 84% yield | N1C=C(C2=CC=CC=C12)CN1C(N(C([C@@H]1CCC=1NC=C(N1)C1=CC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-])=S | C29H24N6O3S
